US07846954B2
3-(3,5-dichlorophenyl)pyrrolidine oxalate (471.6 g, 1.54 mol) was dissolved in 2 M aqueous NaOH solution (1000 mL) and extracted with ethyl acetate (3×350 mL). The combined organic extracts were dried over sodium sulfate and evaporated under reduced pressure to provide the free base of (R)-3-(3,5-dichlorophenyl)pyrrolidine (325.4 g, 98%) as a clear amber oil. A 5 L round bottom flask was fitted with a mechanical stirrer, a heating mantle, a J-Kem temperature probe/controller, a water cooled reflux condenser and a nitrogen inlet/outlet. The vessel was charged with 3-(3,5-dichlorophenyl)pyrrolidine (100 g, 0.46 mol) and 2-propanol (800 mL, 8 mL/g) under a nitrogen atmosphere at RT. (2R)-2-hydroxy-2-phenylacetic acid (70.4 g, 0.46 mol) was added as a solid in one portion, and the resulting solution was stirred for 5 min when a solid began to form. The suspension was heated at 85° C. for 5 min and then allowed to slowly cool to RT. The solid was filtered, washed with 2-propanol (2×250 mL) and dried under high vacuum. Repeated recrystallization of this salt (8×) in 2-propanol (1 mL/g) afforded (R)-3-(3,5-dichlorophenyl)pyrrolidine (R)-2-hydroxy-2-phenylacetate (30 g, 18%) in >96% ee. Absolute configuration was assigned based on X-ray analysis. 1H-NMR (400 MHz, DMSO-d6) δ 7.50 (t, J=1.8 Hz, 1H), 7.42-7.38 (m, 5H), 7.26-7.22 (m, 2H), 7.16 (dd, J=5.2, 9.3 Hz, 1H), 4.61 (s, 1H), 3.51 (dd, J=8.2, 10.9 Hz, 1H), 3.44-3.27 (m, 2H), 3.15-3.01 (m, 3H), 2.50 (t, J=1.8 Hz, 1H), 2.32-2.24 (m, 1H) and 1.91-1.81 (m, 1H) ppm. Chiral HPLC (Astec Chirobiotic, (25 cm×4.6 mm), 100% MeOH (0.1% TEA, 0.1% HOAc), 1.2 mL/min): tR=33.9 min (S), 34.9 min. (R).

reactant | 3-(3,5-dichlorophenyl)pyrrolidine oxalate | 1.54 mol, 471.6 g | C(C(=O)O)(=O)O.ClC=1C=C(C=C(C1)Cl)C1CNCC1
solvent | NaOH | 2 M, 1000 mL | [OH-].[Na+]
product | (R)-3-(3,5-dichlorophenyl)pyrrolidine | 325.4 g, 98% | ClC=1C=C(C=C(C1)Cl)[C@@H]1CNCC1 | C10H11Cl2N
